US07795282B2
Step B: Preparation of N-(2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5-(2,5-difluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazole-3-carbonothioyl)benzamide:
To a solution of 2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5-(2,5-difluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazole (1.00 g, 1.79 mmol) in 20 mL of anhydrous THF was added benzoyl isothiocyanate (0.29 mL, 2.15 mmol). The reaction was allowed to stir overnight at reflux then cooled and concentrated in vacuo. The residue was purified by flash column chromatography (5-10% ethyl acetate/hexanes) to afford the desired product as a yellow foam, 0.677 g, 52%.

reactant | 2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5-(2,5-difluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazole | 1.79 mmol, 1.00 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1(SC(=NN1)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C32H32F2N2OSSi
reactant | benzoyl isothiocyanate | 2.15 mmol, 0.29 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-(2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5-(2,5-difluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazole-3-carbonothioyl)benzamide | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1(SC(=NN1C(=S)NC(C1=CC=CC=C1)=O)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C40H37F2N3O2S2Si
